US09079889B2
To a solution of cis-3-(3-nitropyridin-4-yl)-5-(trifluoromethyl)cyclohex-2-enol (1.0 eq) in DCM (0.14 M) was added TEA (2.5 eq), and followed by MsCl (1.8 eq) at room temperature. The reaction mixture was stirred at room temperature for 2 hours. The solvent was removed. The residue was dissolved in DMF (0.19 M), and then the mixture was added sodium azide (1.2 eq). The resulting mixture was stirred at room temperature for 1 hour. Another 1.2 eq of sodium azide was added. The mixture was stirred at room temperature overnight. The reaction mixture was diluted with ethyl acetate and heptane, and washed with sat NaCl. The organic was dried over MgSO4, filtered and concentrated. The residue was purified by column (1:1 ethyl acetate and hexanes) to give cis-4-(3-azido-5-(trifluoromethyl)cyclohex-1-enyl)-3-nitropyridine (58%). LC/MS (m/z): MH+=314.1, Rt=0.96 min.

reactant | cis-3-(3-nitropyridin-4-yl)-5-(trifluoromethyl)cyclohex-2-enol | 1.0 eq | [N+](=O)([O-])C=1C=NC=CC1C1=C[C@H](C[C@H](C1)C(F)(F)F)O | C12H11F3N2O3
reactant | MsCl | 1.8 eq | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium azide | 1.2 eq | [N-]=[N+]=[N-].[Na+]
reactant | sodium azide | 1.2 eq | [N-]=[N+]=[N-].[Na+]
solvent | DCM | 0.14 M | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | heptane | CCCCCCC | C7H16
product | cis-4-(3-azido-5-(trifluoromethyl)cyclohex-1-enyl)-3-nitropyridine | 58% | N(=[N+]=[N-])[C@@H]1C=C(C[C@@H](C1)C(F)(F)F)C1=C(C=NC=C1)[N+](=O)[O-] | C12H10F3N5O2
